US04769386
(a) 1-Heptadecen-4-yn-3-ol
To freshly prepared ethyl magnesium bromide (from 58.95 mmoles of bromoethane and 49.36 mmoles of magnesium) in diethyl ether (125 ml) was added 1-tetradecyne (44.5 mmoles) in diethyl ether (25 ml) dropwise at ambient temperature. After 3 hours the reaction mixture was cooled to -10° C. and freshly distilled acrolein (59.86 mmoles) in diethyl ether (25 ml) was added dropwise. After 30 minutes saturated ammonium chloride (100 ml) and water (50 ml) were added. The organic phase was separated, washed with brine (100 ml) and dried over anhydrous magnesium sulfate. The desired compound was purified by flash chromatography on silica gel eluted with 90:10 hexane:ethyl acetate.

reactant | ethyl magnesium bromide | 58.95 mmoles | C(C)[Mg]Br
reactant | 1-tetradecyne | 44.5 mmoles | C#CCCCCCCCCCCCC | C14H26
reactant | acrolein | 59.86 mmoles | C(=O)C=C | C3H4O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | diethyl ether | 125 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 1-Heptadecen-4-yn-3-ol | C=CC(C#CCCCCCCCCCCCC)O | C17H30O
